US04261924
A solution of 40 g of diisopropylamine in 400 ml of ether is placed in a stirred apparatus; at 10° C., 61.4 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride in 200 ml of ether is dripped in. After the mixture has been reacted for 4 hours at 25° C., it is filtered and concentrated. There is obtained 70 g (95% of theory) of N,N-diisopropyl-4-nitro-2-trichloromethylphenylsulfenamide; m.p.: 104° C.

reactant | diisopropylamine | 40 g | C(C)(C)NC(C)C | C6H15N
reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | N,N-diisopropyl-4-nitro-2-trichloromethylphenylsulfenamide | 70 g, 95% | C(C)(C)N(SC1=C(C=C(C=C1)[N+](=O)[O-])C(Cl)(Cl)Cl)C(C)C | C13H17Cl3N2O2S
